US08859774B2
2-Bromopyridine (6.50 g, 40 mmol) was added to isopropyl magnesium chloride (2.0 M solution in tetrahydrofuran, 20 mL, 40 mmol) at room temperature. The mixture was stirred for 10 minutes then warmed to 30° C. and stirred for 105 minutes. The mixture was cooled to −10° C. and a solution of (R)-1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde (5.5 g, 10 mmol) in tetrahydrofuran (9 mL) was added dropwise. The reaction mixture was stirred for 15 minutes at −10° C. followed by stirring at room temperature for 1 hour. The reaction mixture was cooled and treated with water (20 mL) followed by aqueous hydrochloric acid (1.0 M, 40 mL). The mixture was stirred for 10 minutes then extracted with dichloromethane (×2) and the combined organic phases dried over sodium sulfate. The solids were removed by filtration, the filtrate was concentrated under reduced pressure and the residue purified by column chromatography on silica gel (gradient: 20-80% ethyl acetate in cyclohexane) to afford the diastereoisomeric (2:1) mixture (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)-(R/S)-methanol as an off-white foam (3.25 g). 1H NMR (400 MHz, CDCl3): δ 8.29 (d, J=4.8 Hz, 1 H); 8.00 (d, J=8.2 Hz, 2 H); 7.84-7.86 (m, 3 H); 7.44-7.46 (m, 1 H); 7.29-7.30 (m, 1.5 H); 7.09-7.10 (m, 3.5 H); 6.95-6.97 (m, 2.5 H); 6.41 (s, 0.5 H); 6.18 (s, 1 H); 5.11 (s, 0.5 H); 5.04 (s, 1 H); 4.87 (s, 1 H); 4.50 (d, J=11.8 Hz, 1 H); 4.10 (d, J=13.3 Hz, 2.5 H); 3.80 (d, J=12.1 Hz, 0.5 H); 3.69 (s, 0.5 H); 3.24 (d, J=16.6 Hz, 1 H); 3.09-3.13 (m, 1.5 H); 2.54-2.58 (m, 2.5 H); 2.25-2.27 (m, 1 H); 2.11 (d, J=16.6 Hz, 1 H); 1.43 (s, 0.5 H).

reactant | 2-Bromopyridine | 40 mmol, 6.50 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | isopropyl magnesium chloride | 40 mmol, 2.0 M, 20 mL | C(C)(C)[Mg]Cl
reactant | (R)-1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde | 10 mmol, 5.5 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C=O)S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F | C24H19F4N3O3S
reactant | hydrochloric acid | 1.0 M, 40 mL | Cl | ClH
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)-(R/S)-methanol | 3.25 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(O)C2=NC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F | C29H24F4N4O3S
